US07196087B2
To a solution of methyl-carbamic acid tert-butyl ester from Preparation 1 (5.347 g, 40.76 mmol) in 200 ml anhydrous dimethylformanide was added sodium hydride (2 g of a 60% suspension in mineral oil, 50 mmol) portion-wise at 0° C. The solution was stirred with a magnetic stirrer at 0° C. for 30 minutes, at which time the initial off-gassing had completed. 1-bromo-2-bromomethyl-3-nitro-benzene (12 g, 40.7 mmol) was added in one portion and the reaction mixture was stirred at 0° C. for an hour. The solution was allowed to warm to room temperature and the reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was extract with ethyl acetate and the combined organic fractions were washed with water and brine. After drying over MgSO4, the organic fraction was concentrated in vacuo and resulting brown residue was purified by flash chromatography to give (2-bromo-6-nitro-benzyl)-methyl-carbamic acid tert-butyl ester as a yellow oil (11.761 g, 84%). MS: (M+H)+345.1.

reactant | methyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC)=O | C6H13NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromo-2-bromomethyl-3-nitro-benzene | 40.7 mmol, 12 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])CBr | C7H5Br2NO2
product | (2-bromo-6-nitro-benzyl)-methyl-carbamic acid tert-butyl ester | 11.761 g, 84% | C(C)(C)(C)OC(N(C)CC1=C(C=CC=C1[N+](=O)[O-])Br)=O | C13H17BrN2O4
